US08357703B2
d) 6-[5-Methyl-3-(tetrahydro-pyran-4-yl)-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester
To a stirred solution of 6-hydroxy-nicotinic acid methyl ester (1.67 g, 10.9 mmol) and [5-methyl-3-(tetrahydro-pyran-4-yl)-isoxazol-4-yl]-methanol (2.15 g, 10.9 mmol) in THF (55 mL) at 5° C. under argon was added triphenylphosphine (10.6 g, 39 mmol), then diisopropyl azodicarboxylate (40%, 6.5 mL, 14.2 mmol) was added dropwise. The reaction mixture was warmed to room temperature for 2 h. The reaction mixture was then extracted with tert-butyl methyl ether, and washed with aqueous HCl (2 N) and the organic extract washed with water, dried over sodium sulphate, filtered and evaporated. Purification by chromatography (silica, heptane:ethyl acetate=1:0 to 1:1) afforded the title compound (1.31 g, 36%) as a white solid. MS: m/e=333.2 [M+H]+.

reactant | 6-hydroxy-nicotinic acid methyl ester | 10.9 mmol, 1.67 g | COC(C1=CN=C(C=C1)O)=O | C7H7NO3
reactant | [5-methyl-3-(tetrahydro-pyran-4-yl)-isoxazol-4-yl]-methanol | 10.9 mmol, 2.15 g | CC1=C(C(=NO1)C1CCOCC1)CO | C10H15NO3
reactant | triphenylphosphine | 39 mmol, 10.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 14.2 mmol, 6.5 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 55 mL | C1CCOC1 | C4H8O
product | 6-[5-Methyl-3-(tetrahydro-pyran-4-yl)-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 1.31 g, 36% | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1CCOCC1)=O | C17H20N2O5
